US06825181B1
Step 7: Synthesis of benzyl-(6-iodo-7-methoxyisoquinoline-1-yl)amine:
2.82 g (8.86 mmol) of 1-chloro-6-iodo-7-methoxyisoquinoline was added to 15 ml of benzylamine, and they were stirred at 140° C. overnight. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 1-chloro-6-iodo-7-methoxyisoquinoline | 8.86 mmol, 2.82 g | ClC1=NC=CC2=CC(=C(C=C12)OC)I | C10H7ClINO
reactant | benzylamine | 15 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | ClCCl | CH2Cl2
product | benzyl-(6-iodo-7-methoxyisoquinoline-1-yl)amine | C(C1=CC=CC=C1)NC1=NC=CC2=CC(=C(C=C12)OC)I | C17H15IN2O
